US04440940
Preparation of N-[2-(4-tetradecenylamino)benzoyl]-2-amino ethanesulfonic acid
To a stirred solution of 2.50 g. of taurine and 5.6 ml. of triethylamine in 22.5 ml. of water is added 5.55 g. of N-{2-[2,2,2-trifluoro-N-(4-tetradecenyl)acetamido]benzoyloxy}succinimide as a solution in 45 ml. of ethanol. After 24 hours, the mixture is treated with 20 ml. of 2.0 M sodium hydroxide and 25 ml. of water. After stirring for 10 minutes, the mixture is acidified with dilute hydrochloric acid, and the crude product is collected by filtration. Recrystallization affords the title compound as a white solid.

reactant | taurine | NCCS(=O)(=O)O | C2H7NO3S
reactant | N-{2-[2,2,2-trifluoro-N-(4-tetradecenyl)acetamido]benzoyloxy}succinimide | FC(C(=O)N(CCCC=CCCCCCCCCC)C1=C(C(=O)ON2C(CCC2=O)=O)C=CC=C1)(F)F | C27H35F3N2O5
reactant | sodium hydroxide | 2.0 M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[2-(4-tetradecenylamino)benzoyl]-2-amino ethanesulfonic acid | C(CCC=CCCCCCCCCC)NC1=C(C(=O)NCCS(=O)(=O)O)C=CC=C1 | C23H38N2O4S
